US05723413
2-(2',6'-Difluorophenyl)-1,8-naphthyridine
2-Aminonicotinaldehyde (2.44 g, 20 mmol) and 2,6-difluoroacetophenone (3.28 g, 21 mmol) are dissolved in 20 ml of MeOH. The mixture is treated dropwise with 3 ml of 40% KOH and, after the exothermic reaction has subsided, it is poured onto water and the residue which is deposited is filtered off with suction. 3.8 g (79% yield) of the desired product are obtained. M.p. 100°-103° C.

reactant | 2-Aminonicotinaldehyde | 20 mmol, 2.44 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | 2,6-difluoroacetophenone | 21 mmol, 3.28 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | KOH | 3 ml | [OH-].[K+]
solvent | MeOH | 20 ml | CO | CH4O
product | 2-(2',6'-Difluorophenyl)-1,8-naphthyridine | 3.8 g, 79% yield | FC1=C(C(=CC=C1)F)C1=NC2=NC=CC=C2C=C1 | C14H8F2N2
